US07605168B2
Step 1—Preparation of 5-(3,4-Dimethoxy-phenyl)-3-iodo-1H-pyrrolo[2,3-b]pyridine 133
5-(3,4-Dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine, 82, (0.270 g, 0.00106 mol) was dissolved in Tetrahydrofuran (8.5 mL, 0.10 mol) under an atmosphere of Nitrogen. The solution was stirred at −40° C. and Iodine (0.269 g, 0.00106 mol) dissolved in 2.5 mL of Tetrahydrofuran was added. The chilled reaction mixture was stirred for 2 h and was then quenched with the addition of Sodium thiosulfate, pentahydrate (0.13 g, 0.00053 mol) in water (1M). The reaction mixture was partitioned between water (20 mL and ethyl acetate (30 mL). The two layers were seperated, and the aquous layer was extracted with ethyl acetate. The organic layers were washed with water and brine, dried with sodium sulfate, then concentrated under reduced pressure. The dark colored crude residue was carried onto the next reaction without further purification.

reactant | 5-(3,4-Dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine | COC=1C=C(C=CC1OC)C=1C=C2C(=NC1)NC=C2 | C15H14N2O2
reactant | Iodine | 0.00106 mol, 0.269 g | II | I2
reactant | Sodium thiosulfate, pentahydrate | 0.00053 mol, 0.13 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | Tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | water | 1M | O | H2O
solvent | Tetrahydrofuran | 0.10 mol, 8.5 mL | O1CCCC1 | C4H8O
product | 5-(3,4-Dimethoxy-phenyl)-3-iodo-1H-pyrrolo[2,3-b]pyridine | COC=1C=C(C=CC1OC)C=1C=C2C(=NC1)NC=C2I | C15H13IN2O2
